US04657898
A mixture of 2.75 g of triacetyl-2,6-dichloro-9-(β-D-ribofuranosyl)purine (M. J. Robins and B. Uznanski Can. J. Chem., 59, 2601 (1981), J. F. Gerster and R. K. Robins, J. Org. Chem., 31, 3258 (1966)), 1.34 g of 2,2-diphenylethylamine and 0.748 g of triethylamine is stirred at room temperature, under a nitrogen atmosphere for four hours in 50 ml of 1,2-dimethoxyethane (distilled over NaH). The precipitate of Et3N+HCl is filtered and the solvent is evaporated from the filtrate to dryness. The residue is dissolved in 50 ml of methanol saturated with ammonia and stirred at room temperature for three hours. The mixture is evaporated to dryness and the residue is purified by medium pressure liquid chromatography on silica gel using 5% methanol in chloroform as the eluent. Evaporation of the solvent from the pure fractions affords a solid material which is crystallized from a mixture of chloroform-2-propanol (10:1) and hexane yielding N6 -(2,2-diphenylethyl)-2-chloroadenosine, mp 120°- 123° C.

reactant | triacetyl-2,6-dichloro-9-(β-D-ribofuranosyl)purine | 2.75 g | C(C)(=O)N1CN(C2N(C(N(C(=C12)Cl)C(C)=O)Cl)C(C)=O)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C16H22Cl2N4O7
reactant | 2,2-diphenylethylamine | 1.34 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | triethylamine | 0.748 g | C(C)N(CC)CC | C6H15N
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | N6 -(2,2-diphenylethyl)-2-chloroadenosine | C1(=CC=CC=C1)C(CNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=C(N1)Cl)C1=CC=CC=C1 | C24H24ClN5O4
